US08466114B2
To a solution of (2S,3R,4R,5S,6R)-2-{4-chloro-3-[1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinolin-6-ylmethyl]-phenyl}-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (135 mg, 0.25 mmol) in methanol (5 mL) was added 10% palladium on charcoal (60 mg), 0.05 mL conc. HCl and stirred under hydrogen balloon pressure for 18 h. Reaction mixture was filtered through celite bed, washed with methanol and concentrated. The resulting residue was purified by preparative HPLC to furnish (2S,3R,4R,5S,6R)-2-[4-Chloro-3-(1,2,3,4-tetrahydro-quinolin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (74 mg).

reactant | (2S,3R,4R,5S,6R)-2-{4-chloro-3-[1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinolin-6-ylmethyl]-phenyl}-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 0.25 mmol, 135 mg | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC=1C=C2CCCN(C2=CC1)CC1=CC=C(C=C1)OC | C30H34ClNO6
reactant | HCl | 0.05 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 60 mg | [Pd] | Pd
product | (2S,3R,4R,5S,6R)-2-[4-Chloro-3-(1,2,3,4-tetrahydro-quinolin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 74 mg | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC=1C=C2CCCNC2=CC1 | C22H26ClNO5
